US05312564
On the other hand, o-fluorophenol (500 g, 4.46 mols) was added to a solution of NaOH (1,250 g, 31.26 mols) dissolved in water (2 l), followed by dropwise adding chloroform (1,230 g), agitating the mixture at about 60° C. for 2 hours, acidifying it with sulfuric acid, filtering off the residue on heating, and recrystallizing the deposited crystals from a mixed solvent of water-methanol to obtain 3-fluoro-4-hydroxybenzaldehyde (35.3 g) having a m.p. of 119.5°~123.5° C. This product (30 g, 0.21 mol) was dissolved in methanol (300 ml), followed by adding and dissolving KOH (12 g, 0.21 mol), dropwise adding optically active p-toluenesulfonic acid 1-methyl-heptyl ester (65 g, 0.23 mol) prepared above, keeping the mixture under reflux for 4 hours, cooling, adding toluene (200 ml) and 6N-HCl (100 ml), washing the resulting toluene layer with 2N-NaOH aqueous solution, further washing with water till the washing layer became neutral, and distilling off toluene to obtain as residue, optically active 3-fluoro-4-(1-methyl-heptyloxy)-benzaldehyde (14.7 g). This product (10 g, 0.04 mol) was dissolved in acetic acid (200 ml), followed by dropwise adding a solution of chromic anhydride (4 g, 0.04 mol) dissolved in acetic acid (50 ml) and water (40 ml), agitating the mixture at 40°~50° C. for about 6 hours, pouring the resulting reaction material in ice water and filtering off the deposited crystals to obtain optically active 3-fluoro-4-(1-methyl-heptyloxy)-benzoic acid (6.1 g) having a m.p. of 57.2°~59.2° C., adding thionyl chloride (4.2 g, 0.035 mol) to the above product (6 g, 0.022 mol), heating the mixture under reflux with stirring for one hour, and distilling off excess thionyl chloride to obtain optically active 3-fluoro-4-(1-methyl-heptyloxy)-benzoic acid chloride (6.1 g).

reactant | KOH | 0.21 mol, 12 g | [OH-].[K+]
reactant | p-toluenesulfonic acid 1-methyl-heptyl ester | 0.23 mol, 65 g | CC(CCCCCC)OS(=O)(=O)C1=CC=C(C=C1)C | C15H24O3S
reactant | HCl | 100 ml | Cl | ClH
reactant | 3-fluoro-4-(1-methyl-heptyloxy)-benzaldehyde | 14.7 g | FC=1C=C(C=O)C=CC1OC(CCCCCC)C | C15H21FO2
solvent | methanol | 300 ml | CO | CH4O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-(1-methyl-heptyloxy)-benzoic acid | 6.1 g | FC=1C=C(C(=O)O)C=CC1OC(CCCCCC)C | C15H21FO3
